US04309327
Into a 2 liter volume flask equipped with a stirrer, N-methyltaurine sodium salt (161 g), deionized water (400 g) and ethylene glycol monomethyl ether (300 g) were charged. The contents were maintained at 70° C. while stirring, and a mixture of vinylbenzyl chloride (153 g), ethylene glycol monomethyl ether (100 g) and p-nitrosophenol (0.15 g) was dropwise added thereto in 1 hour, during which sodium hydroxide (each 8 g) was added thereto 6 times with intervals of 10 minutes. Thereafter, stirring was continued for 5 hours. To the reaction mixture, conc. hydrochloric acid (120 g) was added, and the resulting mixture was concentrated in a rotary evaporator to make a 1/3 volume. The concentrate was admixed with a 4 time volume of acetone and filtered. The filtrate was concentrated to a 3/10 volume and admixed with acetone. The precipitated yellow solids were collected and recrystallized from deionized water to give N-methyl-N-vinylbenzyltaurine (180 g) of the formula:

reactant | N-methyltaurine sodium salt | 161 g | [Na+].CNCCS(=O)(=O)[O-]
reactant | vinylbenzyl chloride | 153 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 120 g | Cl | ClH
reactant | ethylene glycol monomethyl ether | 100 g | COCCO | C3H8O2
reactant | ethylene glycol monomethyl ether | 300 g | COCCO | C3H8O2
catalyst | p-nitrosophenol | 0.15 g | N(=O)C1=CC=C(C=C1)O | C6H5NO2
solvent | water | 400 g | O | H2O
product | N-methyl-N-vinylbenzyltaurine | 180 g | CN(C(CS(=O)(=O)O)CC1=CC=CC=C1)C=C | C12H17NO3S
